US08557822B2
A solution of 2-tert-butyl 8-methyl 3,4-dihydro-1H-pyrido[4,3-b]indole-2,8(5H)-dicarboxylate (0.5 g, 1.5 mmol) in dichloromethane/trifluoroacetic acid (1:1, 10 mL) was stirred at room temperature for 1 h. The reaction mixture was then concentrated, diluted with acetic acid (5 mL) and concentrated again to give an oily residue. The residue was dissolved in THF/MeOH (4:1, 10 mL) followed by the addition of benzaldehyde (170 μL, 180 mg, 1.7 mmol), sodium triacetoxyborohydride (485 mg, 2.3 mmol) and acetic acid (175 μL, 185 mg, 3.1 mmol). Additional amounts of benzaldehyde (4×170 μL) and sodium triacetoxyborohydride (4×485 mg) were added over the course of the ensuing 8 h. The resulting reaction mixture was stirred at room temperature overnight then poured over saturated sodium bicarbonate solution (30 mL). The aqueous layer was then extracted with dichloromethane (3×30 mL) and the combined organic layer was washed with water (2×30 mL), dried over MgSO4, filtered and concentrated. Column chromatography (neat dichloromethane→3% MeOH/CH2Cl2) provided methyl 2-benzyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-8-carboxylate as a white crystalline solid (320 mg, 66%). 1H NMR (CD3OD): δ 8.17 (1H, d, J=1.1 Hz); 7.73 (1H, dd, J=8.7, 1.8 Hz); 7.44-7.27 (6H, m); 3.88 (3H, s); 3.83 (2H, br s); 3.73 (2H, br s) 2.95-2.88 (4H, m). MS (M+H)+=321.

reactant | 2-tert-butyl 8-methyl 3,4-dihydro-1H-pyrido[4,3-b]indole-2,8(5H)-dicarboxylate | 1.5 mmol, 0.5 g | C1N(CCC=2NC=3C=CC(=CC3C21)C(=O)OC)C(=O)OC(C)(C)C | C18H22N2O4
reactant | benzaldehyde | 1.7 mmol, 170 μL, 180 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 2.3 mmol, 485 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 3.1 mmol, 175 μL, 185 mg | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 170 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 485 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane trifluoroacetic acid | 10 mL | ClCCl.FC(C(=O)O)(F)F
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | methyl 2-benzyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-8-carboxylate | 320 mg, 66% | C(C1=CC=CC=C1)N1CC2=C(NC=3C=CC(=CC23)C(=O)OC)CC1 | C20H20N2O2
